US05025025
To a solution of 3.53 g of 4-(4-hydroxybutyl)-epsilon-caprolactone in 14 mL methylene chloride and 14 mL tetrahydrofuran is added 4.24 g p-chlorophenylsulfonamide followed by 7.44 g triphenylphosphine. The reaction mixture is stirred at room temperature for one half hour and then 6.1 mL diethyl azodicarboxylate is added slowly with cooling. After the addition, the cooling bath is removed and the solution is stirred at room temperature overnight. The reaction mixture is evaporated to dryness to yield 4-[4-(p-chlorophenylsulfonamido)butyl]-epsilon-caprolactone.

reactant | 4-(4-hydroxybutyl)-epsilon-caprolactone | 3.53 g | OCCCCC1CCC(=O)OCC1 | C10H18O3
reactant | p-chlorophenylsulfonamide | 4.24 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | triphenylphosphine | 7.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.1 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 14 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 4-[4-(p-chlorophenylsulfonamido)butyl]-epsilon-caprolactone | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC1CCC(=O)OCC1 | C16H22ClNO4S
